US08022205B2
[3-(2-Morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-phenyl]-methanol (B-23)
In the same manner as Example 1-B-10, using 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine, and 3-(hydroxymethyl)phenylboronic acid as a boronic acid, the desired compound was obtained.

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C15H16ClN5O
reactant | 3-(hydroxymethyl)phenylboronic acid | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | boronic acid | B(O)O | BH3O2
product | [3-(2-Morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-phenyl]-methanol | N1(CCOCC1)C=1N=C(C2=C(N1)N(CC2)C=2C=NC=CC2)C=2C=C(C=CC2)CO | C22H23N5O2
